US06797718B2
5,6-dimethyl-2-phenoxy-N4-(2-phenoxyethyl)pyridine-3,4-diamine
Anhydrous toluene (100 ml), 5% platinum on carbon (Pt/C) (1.5 g), and 2,3-dimethyl-5-nitro-6-phenoxy-N-(2-phenoxyethyl)pyridin-4-amine (2.97 g) from Part C were placed in a Parr hydrogenation flask at a hydrogen pressure of 345 kPa for 4 hours with shaking. Additional 5% Pt/C (1.5 g) was added and the reaction was allowed to continue for 3 hours. The reaction mixture was filtered through a fluted filter paper and then through a folded No. 2 Whatman filter. The solvent was removed from the filtrate under reduced pressure and the resulting oil was used in the next step.

reactant | 2,3-dimethyl-5-nitro-6-phenoxy-N-(2-phenoxyethyl)pyridin-4-amine | 2.97 g | CC1=NC(=C(C(=C1C)NCCOC1=CC=CC=C1)[N+](=O)[O-])OC1=CC=CC=C1 | C21H21N3O4
reactant | hydrogen | [H][H] | H2
catalyst | platinum on carbon | 1.5 g | [Pt] | Pt
catalyst | Pt/C | 1.5 g | [Pt] | Pt
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 5,6-dimethyl-2-phenoxy-N4-(2-phenoxyethyl)pyridine-3,4-diamine | CC=1C(=C(C(=NC1C)OC1=CC=CC=C1)N)NCCOC1=CC=CC=C1 | C21H23N3O2
